US04349568
To a solution of 4.6 g (0.0191 mole) of 4-(4-(methylthio)phenoxy)benzonitrile dissolved in 50 ml of glacial acetic acid was added dropwise 2.38 g (0.0210 mole) of 30% aqueous hydrogen peroxide. The mixture was heated at 50° C. for 1 hr and most of the solvent removed in vacuo. The crude product was dissolved in CH2Cl2 and washed with 2 N aqueous NaOH and water. The organic layer was dried (Na2SO4) and solvent removed in vacuo leaving 4.7 g (95.9% yield) of 4-(4-(methylsulfinyl)phenoxy)benzonitrile as an oil.

reactant | 4-(4-(methylthio)phenoxy)benzonitrile | 0.0191 mole, 4.6 g | CSC1=CC=C(OC2=CC=C(C#N)C=C2)C=C1 | C14H11NOS
reactant | hydrogen peroxide | 0.0210 mole, 2.38 g | OO | H2O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 4-(4-(methylsulfinyl)phenoxy)benzonitrile | 4.7 g, 95.9% yield | CS(=O)C1=CC=C(OC2=CC=C(C#N)C=C2)C=C1 | C14H11NO2S
